US09085583B2
Step 6: 6-bromo-4-(1-methoxypropan-2-yl)-5-methyl-4H-pyrrolo[2,3-d]thiazole
To a solution of 6-bromo-5-methyl-4H-pyrrolo[2,3-d]thiazole (2.5 g, 11.52 mmol) in anhydrous N,N-dimethylformamide (20 mL) was added 1-methoxypropan-2-yl methanesulfonate (3.87 g, 23.03 mmol), and potassium carbonate (3.18 g, 23.03 mmol) followed. The resulting reaction mixture was heated to 70° C. and allowed to stir over night at 70° C. The reaction mixture was washed with water and brine, extracted with acetic ester (30 mL×3). The combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph on silica gel eluted with (petrol ether/acetic ester 30:1→20:1→10:1) to the title compound (2.0 g, 60%) as orange oil. LCMS (M+H+) m/z: calc'd. 287.99. found 290.9.

reactant | 6-bromo-5-methyl-4H-pyrrolo[2,3-d]thiazole | 11.52 mmol, 2.5 g | BrC1=C(NC=2N=CSC21)C | C6H5BrN2S
reactant | 1-methoxypropan-2-yl methanesulfonate | 23.03 mmol, 3.87 g | CS(=O)(=O)OC(COC)C | C5H12O4S
reactant | potassium carbonate | 23.03 mmol, 3.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 6-bromo-4-(1-methoxypropan-2-yl)-5-methyl-4H-pyrrolo[2,3-d]thiazole | BrC1=C(N(C=2N=CSC21)C(COC)C)C | C10H13BrN2OS
